US08003639B2
1.4 g (6.3 mmol) of a mixture of 1,3-dimethyl-7-nitro-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 1,3-dimethyl-8-nitro-2,3,4,5-tetrahydro-1H-benzo[d]azepine, 20 ml of methanol and 0.20 g 10% palladium on charcoal is hydrogenated for 5.5 h under a hydrogen atmosphere (50 psi). It is filtered, concentrated and the mixture is purified by chromatography with silica gel (eluant: dichloromethane:95% ethanol/5% ammonia 99:1 to 80:20). 0.45 g of 1,3-dimethyl-7-amino-2,3,4,5-tetrahydro-1H-benzo[d]azepine are obtained

reactant | 1,3-dimethyl-7-nitro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | CC1CN(CCC2=C1C=CC(=C2)[N+](=O)[O-])C | C12H16N2O2
reactant | 1,3-dimethyl-8-nitro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | CC1CN(CCC2=C1C=C(C=C2)[N+](=O)[O-])C | C12H16N2O2
catalyst | palladium on charcoal | 0.20 g | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
product | 1,3-dimethyl-7-amino-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.45 g | CC1CN(CCC2=C1C=CC(=C2)N)C | C12H18N2
